US04663319
A mixture of methyl 1-(3-pyridylmethyl)-2,4-dioxopiperidine-3-carboxylate (8.50 g), acetonitrile (100 ml) and water (1.4 ml) is refluxed for one hour. The mixture is distilled to remove the solvent to give 1-(3-pyridylmethyl)-2,4-dioxopiperidine (6.66 g, quantitative) as crystals, m.p. 55°-60° C.

reactant | methyl 1-(3-pyridylmethyl)-2,4-dioxopiperidine-3-carboxylate | 8.50 g | N1=CC(=CC=C1)CN1C(C(C(CC1)=O)C(=O)OC)=O | C13H14N2O4
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | water | 1.4 ml | O | H2O
product | 1-(3-pyridylmethyl)-2,4-dioxopiperidine | 6.66 g | N1=CC(=CC=C1)CN1C(CC(CC1)=O)=O | C11H12N2O2
